US05523400
1-Phenyl-Azetidine-2,3-Dione
800 mg (5 mmol) methylene-1-phenyl-azetidine-2-one were dissolved in 50 ml of ethyl acetate and cooled to -70° C. For 15 min ozone was passed through the solution and then oxygen for 1 hour. Then 0.5 ml dimethylsulfide were added, and the solution was stirred for 1.5 hour at -70° C. The temperature was raised to 0° C., and 25 ml of water were added. After 5 min the organic phase was separated and extracted with each of 50 ml of sodium thiosulfate solution and 50 ml of ferrous sulfate solution and then dried over magnesium sulfate. The solvent was evaporated and the residue purified by chromatography over silica gel (eluent: benzene). Yield: 114 mg (14.5%) M.p. 115°-117° C. IR(KBr): 1822, 1757 cm-1

reactant | methylene-1-phenyl-azetidine-2-one | 5 mmol, 800 mg | C=C1C(N(C1)C1=CC=CC=C1)=O | C10H9NO
reactant | ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
reactant | dimethylsulfide | 0.5 ml | CSC | C2H6S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 25 ml | O | H2O
product | 1-Phenyl-Azetidine-2,3-Dione | C1(=CC=CC=C1)N1C(C(C1)=O)=O | C9H7NO2
